US07119205B2
3-(4-aminophenyl)-4-hydroxy-6-oxo-6,7-dihydrothieno[2,3-b]pyridine-5-carbonitrile
To a stirred suspension of 3-(4-nitrophenyl)-4-hydroxy-6-oxo-6,7-dihydrothieno[2,3-b]pyridine-5-carbonitrile (0.054 g, 0.173 mmol) and ammonium chloride (0.007 g, 0.138 mmol) in ethanol: water mixture (2:1, 24 mL) was added iron powder (0.097 g, 1.73 mmol) in a single portion. The reaction mixture was heated at reflux for 16 hours, cooled to room temperature, filtered and the filtrate concentrated under reduced pressure. The residue was taken up in DMSO/MeOH and purified by RP-HPLC. MS (ESI) m/e 281.7 (M−H)+; 1H NMR (400 MHz, DMSO-d6): δ ppm 11.65 (br s, 1H), 7.31 (d, 2H), 6.88 (d, 2H), 6.74 (s, 1H).

reactant | 3-(4-nitrophenyl)-4-hydroxy-6-oxo-6,7-dihydrothieno[2,3-b]pyridine-5-carbonitrile | 0.173 mmol, 0.054 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=CSC=2NC(C(=C(C21)O)C#N)=O | C14H7N3O4S
reactant | ammonium chloride | 0.138 mmol, 0.007 g | [Cl-].[NH4+]
reactant | water | 24 mL | O | H2O
solvent | ethanol | C(C)O | C2H6O
catalyst | iron | 1.73 mmol, 0.097 g | [Fe] | Fe
product | 3-(4-aminophenyl)-4-hydroxy-6-oxo-6,7-dihydrothieno[2,3-b]pyridine-5-carbonitrile | NC1=CC=C(C=C1)C1=CSC=2NC(C(=C(C21)O)C#N)=O | C14H9N3O2S
